US04827020
2.0 g of N-propargyl-N-methoxycarbonylglycinamide were added to the mixture of 5 ml of methanol and 2.5 ml of 20% aqueous solution of sodium hydroxide and maintained at 70° C. for an hour. After cooled down to room temperature; the reaction mixture was neutralized with concentrated hydrochloric acid followed by concentrating and drying the same by an evaporation under reduced pressure. Then it was extracted with acetonitrile and sodium chloride was removed off from the extract by filtration. The solvent was evaporated off from the filtrate to obtain 1.4 g of 1-propargyl-2,4-dioxoimidazolidine (melting point: 124°-125° C.).

reactant | N-propargyl-N-methoxycarbonylglycinamide | 2.0 g | C(C#C)N(C(CN)=O)C(=O)OC | C7H10N2O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 1-propargyl-2,4-dioxoimidazolidine | 1.4 g | C(C#C)N1C(NC(C1)=O)=O | C6H6N2O2
